US06121308
b. 4-[2-(1-methyl-indol-2-yl)ethyl]benzonitrile
2.3 g (8.9 mmol) of (E)-4-[2-(1-methyl-indol-2-yl)ethenyl]benzonitrile are dissolved in 150 ml methanol and 50 ml methylene chloride and hydrogenated with 0.20 g 10% palladium on charcoal at 3 bar hydrogen pressure. The solvent is distilled off in vacuo, the white residue obtained is washed with a little diethylether and acetone.

reactant | (E)-4-[2-(1-methyl-indol-2-yl)ethenyl]benzonitrile | 8.9 mmol, 2.3 g | CN1C(=CC2=CC=CC=C12)/C=C/C1=CC=C(C#N)C=C1 | C18H14N2
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on charcoal | 0.20 g | [Pd] | Pd
product | 4-[2-(1-methyl-indol-2-yl)ethyl]benzonitrile | CN1C(=CC2=CC=CC=C12)CCC1=CC=C(C#N)C=C1 | C18H16N2
